US05335303
A mixture of 4 g of ethyl 4-hydroxy-3-nitrobenzoate, 5.4 g of (S)-2-octyl benzenesulphonate 6.9 g of potassium carbonate and 110 ml of ethyl methyl ketone was heated to reflux overnight. Subsequently, the cooled reaction mixture was poured into water and extracted three times with 50 ml of diethyl ether each time. The combined organic phases were washed with 500 ml of water, dried over magnesium sulphate, filtered and concentrated. Chromatography of the residue on silica gel with dichloromethane gave 5.6 g of ethyl 3-nitro-4-[(R)-2-octyloxy)benzoate as of a yellow oil.

reactant | ethyl 4-hydroxy-3-nitrobenzoate | 4 g | OC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H9NO5
reactant | (S)-2-octyl benzenesulphonate | 5.4 g | C1(=CC=CC=C1)S(=O)(=O)O[C@@H](C)CCCCCC | C14H22O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl methyl ketone | 110 ml | CC(=O)CC | C4H8O
solvent | water | O | H2O
product | ethyl 3-nitro-4-[(R)-2-octyloxy)benzoate | 5.6 g | [N+](=O)([O-])C=1C=C(C(=O)OCC)C=CC1O[C@H](C)CCCCCC | C17H25NO5
